Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin / NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
back pain, cough
 
Major Surgical or Invasive Procedure:
CT-guided biopsy at ___

 
History of Present Illness:
___ with hx of htn, tobacco use presenting with cough, L sided 
back pain, found to have LLL spiculated mass and L chest soft 
tissue mass involving L posterior ___ and 4th ribs. Pt 
transferred from ___ for further evaluation given 
initial reports concerning for epidural abscess.

He recalls onset of L sided mid back pain 5 months prior to 
presentation, which he attributed to a muscle strain. He recalls 
"tugging" pain, worse with exerting himself, such as mopping or 
wiping windows at his job as a ___. Pain is intermittent, 
reaches ___ spasm at its worst, he does not feel that it has 
been getting worse since its onset. He has had several episodes 
chills, denies fevers; specifically he recalls ___ episodes of 
drenching night sweats 8 weeks prior to admission. Has 
intentionally lost 10 lbs over 7 week period, which he 
attributes to significant increase in walking, modifying diet to 
include more fruit, "less junk." He denies ___ weakness, change 
in bowel or bladder habits. 

Pt was treated for pneumonia after presenting to PCP ___ ___ 
with 3 weeks of productive cough. CXR raised concern for a mass, 
and CT chest was recommended after completion of treatment for 
pneumonia/COPD exacerbation. CT chest performed on ___ 
revealed a spiculated LLL lung mass as well as L posterior chest 
wall mass concerning for metastatic disease.

On ___ he apparently underwent ___ biopsy at ___, at 
which time pus (?) was aspirated. Review of ___ records 
reveals that aspiration had negative gram stain, cultures 
pending. Pt denies associated ___ weakness, numbness, 
parasthesias, weakness, change in bowel or bladder function or 
saddle anesthesia. He denies F/C.

Review of ___ records reveals FNA of left rib lesion from 
___ with final diagnosis:
Positive for malignant cells consistent with squamous cell 
carcinoma.  The specimen consists mostly of necrotic or 
keratinaceous debris with few clusters of viable cells which are 
consistent with squamous cell carcinoma.  But diagnosis is 
supported by the immunophenotypic profile as follows: Positive 
for AE1/AE3, CK ___, p63.  Negative for BG-8, MOC31, S100 and 
TTF-1.

In the ___ ED:
VS 97.9, 82, 125/79, 99% RA
Exam notable for "neuro intact, normal rectal"
Labs notable for WBC 8.9, Hb 12.1, plt 352, INR 1.2, BUN 9, Cr 
0.7
Lactate 1.4
CRP 74.8

Imaging: MRI CTL spine
Evaluated by spine service - no indication for emergent spinal 
surgical intervention.

Received:
Dilaudid 0.5 mg IV x2
Lisinopril 20 mg PO 
Zosyn
Vancomycin

On arrival to the floor, pt denies pain. He feels anxious about 
suspected new diagnosis of cancer.

 
Past Medical History:
per prior notes, confirmed with pt:
___ esophagus
Hypertension
NAFLD
HLD
Tobacco use

 
Social History:
___
Family History:
per prior notes: Mother with breast cancer. Father with MI. 
 
Physical Exam:
GEN: alert and interactive, comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or gallops
LUNGS: diffusely diminished breath sounds, no wheeze or rhonchi
GI: soft, nontender, without rebounding or guarding, 
nondistended with normal active bowel sounds, no hepatomegaly
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: Alert and interactive, cranial nerves II-XII intact, 
strength ___ in UE and ___, 2+ patellar DTRs, 
sensation to light touch intact at distal ___. Gait 
intact, including heel to toe, heel walking, toe walking.
PSYCH: normal mood and affect

 
Pertinent Results:
___ 06:33AM BLOOD WBC-11.0* RBC-4.95 Hgb-13.3* Hct-41.2 
MCV-83 MCH-26.9 MCHC-32.3 RDW-13.2 RDWSD-39.6 Plt ___
___ 12:15PM BLOOD CRP-74.8*

IMAGING - images and reports reviewed:
MR CTL ___:
1. Involvement of the T4-T5 and lumbar vertebral bodies from
L2-L5 suggestive of metastatic disease. The appearance is not
typical for osteomyelitis discitis. No epidural abscess is
identified. 
 2. Mild epidurals soft tissue changes at T4 level with mild 
less
than 25% narrowing of the spinal canal without cord compression.
No evidence of high-grade thecal sac compression in the lumbar
region. 
 3. Left paraspinal mass involving the fourth rib with both 
solid
and cystic components could be due to metastatic disease or
primary bone lesion. Given  the history provided of pus 
aspirated
from this lesion this could be secondary  infected. 
 4. A spiculated masses are identified in the left lung 
measuring
3.5 x 2.5 cm  (19:30). 

Prior data:
CT chest with contrast ___:
Findings:
Lungs: There is a spiculated 2.6 cm nodule within the left lower 
lobe.  There is an additional satellite 7 mm nodule located 
approximately 5 cm from the dominant mass.
Pleura: Within normal limits.
Mediastinum: There are matted enlarged lymph nodes within the 
left hilar region.  There is a 9 mm precarinal node.
Heart: Unremarkable
Great vessels: Within normal limits.
Bones: The finding on x-ray is the result of a 6 x 6 cm 
low-density mass that results in destruction of the posterior 
portion of the left third rib portion of the fourth rib.
Impression:
1.  There is a 2.6 cm spiculated nodule within the left lower 
lobe suspicious for primary lung cancer.  There is a solid 
nodule measuring 7 mm located in the same lobe.
2.  There are enlarged left hilar nodes and borderline enlarged 
precarinal node.
3.  There is a presumed metastatic soft tissue mass within the 
left posterior chest wall resulting in rib distraction.

MRI thoracic spine with and without IV contrast ___:
Impression:
1.  There is abnormal marrow signal within the T4 and T5 
vertebral bodies.  At T4 there is an expansile component within 
the vertebral body extending into the central canal.  There is 
intense bony enhancement at these levels and there is evidence 
of mild localized dural thickening and enhancement consistent 
with extraosseous extension.  This is at the same level as the 
known destructive abscess of the left fourth rib raising the 
possibility of secondary spread of infection along the drainage 
pathway of the rib and paraspinous veins and ultimately into the 
T4 and T5 vertebrae.  The intervening T4-5 disc looks normal 
without evidence of disc infection.  Enhancing bone and 
thickened enhancing dura exerting mass-effect on the spinal 
cord, distorting the ventral cord without impingement of the 
cord or creating definite signal change within the cord.  While 
there is a highly suspicious mass in the left lower lobe, the 
rib and bone findings are more likely due to infection and 
neoplastic disease.

 
Brief Hospital Course:
# Back pain:
# New diagnosis squamous cell carcinoma: 
Radiology, ortho/spine, and oncologist concur that findings are 
___ imaging and here are most likely metastatic disease and 
not infection, especially without fever, other symptoms, or 
significant leukocytosis. There are reports that ___ aspiration 
of soft tissue mass/collection at ___ retrieved pus, 
but gram stain negative, cultures NTGD. This was most likely 
necrosis rather than "pus". He has had no dental work or 
procedure to increase risk of infection. No neurologic 
compromise by history, exam, or imaging. Evaluated by ortho 
spine in ED, agree that there is no evidence of cord 
involvement. They reviewed new CT spine images and also feel 
there is no compromise of the bone structural integrity. No 
bracing required or limitations. The ___ oncology consult 
service reached out to ___ Oncology to arranged follow up 
and to add testing to the tumor sample to help determine therapy 
going forward. He will follow up in ___ within 2 weeks. 30 
tabs oxycodone provided until he can follow up.

Mr. ___ was seen and examined on the day of discharge and is 
clinically stable for discharge today. The total time spent 
today on discharge planning, counseling and coordination of care 
was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
2. Lisinopril 20 mg PO BID 
3. Sertraline 100 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. TraZODone 200 mg PO QHS:PRN insomnia 
6. Diazepam 5 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 6 hours as needed 
for pain Disp #*30 Tablet Refills:*0 
2.  Senna 8.6 mg PO BID:PRN Constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice daily Disp 
#*60 Tablet Refills:*1 
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
4.  Diazepam 5 mg PO DAILY:PRN anxiety  
5.  Lisinopril 20 mg PO BID  
6.  Sertraline 100 mg PO DAILY  
7.  Simvastatin 20 mg PO QPM  
8.  TraZODone 200 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non-small cell lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ and found to have lung cancer 
(squamous) which has spread to other parts of your body. It does 
not look like there is an infection associated with this. These 
spots are also not compromising the strength of your bones. The 
___ clinic will be calling you to set up an 
appointment within the next 2 weeks.

Instructions:
- Take oxycodone as needed for pain
- Take senna to help prevent constipation from the oxycodone
 
Followup Instructions:
___